US08222430B2
Synthesis of N-(4-chlorophenyl)-3-(2-cyclohexene-1-yl)thiopropionamide
The obtained THF solution of 2-(2-cyclohexene-1-yl)ethyl magnesium bromide was dropped into 25 ml of anhydrous THF solution including 1.8 g of p-chlorophenyl isothiocyanate at 0° C. The resulting solution was stirred at 0° C. for 30 minutes, and stirred at room temperature for an additional 30 minutes. The solution was added with saturated ammonium chloride aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine, dried with anhydrous magnesium sulfate, filtered, concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 2.2 g of the title compound.

reactant | 2-(2-cyclohexene-1-yl)ethyl magnesium bromide | C1(C=CCCC1)CC[Mg]Br
reactant | p-chlorophenyl isothiocyanate | 1.8 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N-(4-chlorophenyl)-3-(2-cyclohexene-1-yl)thiopropionamide | 2.2 g | ClC1=CC=C(C=C1)NC(CCC1C=CCCC1)=S | C15H18ClNS
